US06649656B1
Synthesis of 2-(2-(4-(4-(t-butoxycarbonylmethoxy)phenoxy)phenyl)-acetylamino)benzoic acid methyl ester
Potassium carbonate (162 mg) was added to 221 mg of 2-(2-(4-(4-hydroxyphenyloxy)phenyl)acetylamino)benzoic acid methyl ester obtained by the Reference Example 24, the mixture was suspended in dried DMF (5 ml), t-butyl bromoacetate (130 μl) was added little by little to the suspension at room temperature, and the mixture was stirred as it is over a night at room temperature. After completing the reaction, DMF was distilled out under reduced pressure and the product was extracted with ethyl acetate. The organic layer was washed with saturated aqueous solution of potassium bisulfate and dried with anhydrous magnesium sulfate. After removing the solvent by distillation, the residue was purified by silica gel column chromatography (developing liquid: hexane:ethyl acetate 4:1 to 1:1) to obtain 174 mg of the subject compound. The 1H-NMR of the compound was consistent with the above structure.

reactant | Potassium carbonate | 162 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 2-(2-(4-(4-hydroxyphenyloxy)phenyl)acetylamino)benzoic acid methyl ester | 221 mg | COC(C1=C(C=CC=C1)NC(CC1=CC=C(C=C1)OC1=CC=C(C=C1)O)=O)=O | C22H19NO5
reactant | t-butyl bromoacetate | 130 μl | BrCC(=O)OC(C)(C)C | C6H11BrO2
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
product | 2-(2-(4-(4-(t-butoxycarbonylmethoxy)phenoxy)phenyl)-acetylamino)benzoic acid methyl ester | 174 mg, Yield: 60% | COC(C1=C(C=CC=C1)NC(CC1=CC=C(C=C1)OC1=CC=C(C=C1)OCC(=O)OC(C)(C)C)=O)=O | C28H29NO7
